US04330539
16α-Hydroxy-17β-methylamino-androst-4-en-3-one (3.5 g) was added to a cold (0° C.) solution of trifluoroacetic anhydride (4 ml) in pyridine (21 ml). The solution was stirred at room temperature for 11/2 h., cooled, then water was added to precipitate the product as a yellow solid. Crystallisation from ether-n-hexane gave 16α-hydroxy-17β-(N-trifluoroacetylmethylamino)-androst-4-en-3-one as yellow prisms (1.9 g), m.p. 217°-220° C., [α]D +5.7° (c 1.06 in CHCl3).

reactant | 16α-Hydroxy-17β-methylamino-androst-4-en-3-one | 3.5 g | O[C@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)NC | C20H31NO2
reactant | trifluoroacetic anhydride | 4 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | pyridine | 21 ml | N1=CC=CC=C1 | C5H5N
product | 16α-hydroxy-17β-(N-trifluoroacetylmethylamino)-androst-4-en-3-one | 1.9 g | O[C@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)NCC(C(F)(F)F)=O | C22H30F3NO3
